US08802704B2
Step 1: 3-{[(2,3-dihydroxypropyl)(methyl)amino]methyl}benzonitrile
The title compound was prepared following the general procedure 10, starting from 3-(bromomethyl)benzonitrile and 3-(methylamino)-1,2-propanediol. It was isolated as a colorless oil (920 mg, 82%). LC/MS (Method B): 221.1 (M+H)+.

reactant | 3-(bromomethyl)benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | 3-(methylamino)-1,2-propanediol | CNCC(CO)O | C4H11NO2
product | 3-{[(2,3-dihydroxypropyl)(methyl)amino]methyl}benzonitrile | OC(CN(C)CC=1C=C(C#N)C=CC1)CO | C12H16N2O2
